US05204482
5.0 g (15.1 mmol) of t-butyl [2-(4-phenyl-3-isoxazolecarboxamido)ethyl]carbamate were stirred at room temperature for 16 hours with trifluoroacetic acid analogously to Example 13. After concentration there was obtained a residue which was converted into the hydrochloride. Recrystallization of the crude product from methanol/ether yielded 3.8 g (94.1%) of N-(2-aminoethyl)-4-phenyl-3-isoxazolecarboxamide hydrochloride as white crystals, melting point 211°-212°.

reactant | t-butyl [2-(4-phenyl-3-isoxazolecarboxamido)ethyl]carbamate | 15.1 mmol, 5.0 g | C1(=CC=CC=C1)C=1C(=NOC1)C(=O)NCCNC(OC(C)(C)C)=O | C17H21N3O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloride | Cl | ClH
product | N-(2-aminoethyl)-4-phenyl-3-isoxazolecarboxamide hydrochloride | 3.8 g, 94.1% | Cl.NCCNC(=O)C1=NOC=C1C1=CC=CC=C1 | InChI=1S/C12H13N3O2.ClH/c13-6-7-14-12(16)11-10(8-17-15-11)9-4-2-1-3-5-9;/h1-5,8H,6-7,13H2,(H,14,16);1H
